US07902239B2
N3-Phenyl-1-(6-piperazin-1-yl-pyrimidin-4-yl)-1H-[1,2,4]triazole-3,5-diamine.
To a solution of 200 mg of 1-(6-chloro-pyrimidin-4-yl)-N3-phenyl-1H-[1,2,4]triazole-3,5-diamine (0.69 mMol, 1 equiv) in 5 mL of NMP was added 200 mg of piperazine (2.32 mMol, 3.3 equiv). The reaction vessel was sealed and warmed to 220° C. via microwave irradiation for 6 min and allowed to cool. The resulting solution was poured into 50 mL of water and the precipitate was filtered and washed with water (3×20 mL). The resulting waxy solid (150 mg) was used without further purification.

reactant | 1-(6-chloro-pyrimidin-4-yl)-N3-phenyl-1H-[1,2,4]triazole-3,5-diamine | 0.69 mMol, 200 mg, 1 equiv | ClC1=CC(=NC=N1)N1N=C(N=C1N)NC1=CC=CC=C1 | C12H10ClN7
reactant | piperazine | 2.32 mMol, 200 mg, 3.3 equiv | N1CCNCC1 | C4H10N2
reactant | water | 50 mL | O | H2O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | N3-Phenyl-1-(6-piperazin-1-yl-pyrimidin-4-yl)-1H-[1,2,4]triazole-3,5-diamine | C1(=CC=CC=C1)NC1=NN(C(=N1)N)C1=NC=NC(=C1)N1CCNCC1 | C16H19N9
